US06583135B2
Preparation of tert-Butyl 9,10-Dichloro-6-(2-ethoxy-2-oxoethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate
To a solution of tert-butyl 9,10-dichloro-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate (0.10 g, 0.28 mmol) in DMF (2 mL), sodium hydride (60% dispersion in mineral oil, 17 mg, 0.42 mmol) was added. After 15 min, ethyl bromoacetate(0.060 mL, 0.56 mmol) was added. The reaction was quenched with saturated aqueous NH4Cl after 2.5 h and extracted with EtOAc (3×15 mL). The combined organic extracts were washed with brine, dried over Na2SO4, decanted, and concentrated. The crude product was purified by column chromatography (Biotage, 40S) with heptane/EtOAc (3:1) to give 85 mg (70%) of a white solid: mp 136.5-138.0° C.; 1H NMR (300 MHz, CDCl3) δ 7.19 (d, J=8.7 Hz, 1H), 6.99 (d, J=8.7 Hz, 1H), 4.74 (s, 2H), 4.21 (dd, J=7.1, 7.1 Hz, 2H), 3.75 (m, 4H), 3.53 (m, 2H), 2.93 (m, 2H), 1.48 (s, 9H), 1.26 (t, J=7.1 Hz, 3H); IR (diffuse reflectance) 2985, 2976, 1737, 1685, 1466, 1450, 1414, 1367, 1344, 1249, 1213, 1169, 1156, 1115, 926 cm−1; MS (EI) m/z 440 (M+), 307, 305, 301, 299, 298, 272, 225, 189, 58, 56; Anal. Calcd for C21H26Cl2N2O4: C, 57.15; H, 5.94; N, 6.35, found: C, 57.16; H, 5.98; N, 6.27.

reactant | tert-butyl 9,10-dichloro-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 0.28 mmol, 0.10 g | ClC1=C(C=2C3=C(NC2C=C1)CCN(CC3)C(=O)OC(C)(C)C)Cl | C17H20Cl2N2O2
reactant | sodium hydride | 0.42 mmol, 17 mg | [H-].[Na+]
reactant | ethyl bromoacetate | 0.56 mmol, 0.060 mL | BrCC(=O)OCC | C4H7BrO2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 9,10-Dichloro-6-(2-ethoxy-2-oxoethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 85 mg, 70% | ClC1=C(C=2C3=C(N(C2C=C1)CC(=O)OCC)CCN(CC3)C(=O)OC(C)(C)C)Cl | C21H26Cl2N2O4
